* File: AOI12.pex.sp.pex
* Created: Mon Dec  2 12:06:26 2024
* Program "Calibre xRC"
* Version "v2013.2_18.13"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_AOI12%VSS 1 6 9 13 18 27 28
c36 1 0 1.04651e-19
r37 16 23 0.0203811
r38 16 18 0.314113
r39 13 28 10
r40 11 23 0.0262583
r41 11 13 1.45436
r42 10 21 0.0175382
r43 9 23 0.0203811
r44 9 10 1.09262
r45 6 27 10
r46 4 21 0.0306086
r47 4 6 1.45436
r48 1 21 15
.ends

.subckt PM_AOI12%OUT 3 6 7 10 13 20 21
c36 21 0 1.04651e-19
c37 13 0 8.49279e-21
r38 19 20 10
r39 17 19 0.781098
r40 17 20 30
r41 13 19 1.36498
r42 10 13 1.7
r43 8 13 0.74418
r44 6 8 0.0488012
r45 6 7 0.717873
r46 3 21 10
r47 1 7 0.0479332
r48 1 3 0.952085
.ends

.subckt PM_AOI12%NET7 3 9 10 13 19 20
r31 16 20 30
r32 13 16 0.781098
r33 13 20 10
r34 11 13 0.714063
r35 9 11 0.0479332
r36 9 10 1.19395
r37 6 19 30
r38 3 6 0.781098
r39 3 19 10
r40 1 10 0.0479332
r41 1 3 0.714063
.ends

.subckt PM_AOI12%VDD 1 6 14 17 21
c41 6 0 8.49279e-21
r42 12 17 0.0175382
r43 12 14 1.03644
r44 10 21 30
r45 6 10 0.781098
r46 6 21 10
r47 4 17 0.0306086
r48 4 10 1.23091
r49 1 17 30
.ends

.subckt PM_AOI12%C 6 9 10 12 14 16 18 21 24
r39 21 24 25
r40 18 21 1.7
r41 11 24 2.93766
r42 11 12 6.47011
r43 9 24 3.18504
r44 9 10 6.47011
r45 6 16 92.2314
r46 6 12 58.0033
r47 3 14 87.1074
r48 3 10 76.0397
.ends

.subckt PM_AOI12%B 6 9 10 12 14 16 18 21 24
r54 21 24 25
r55 18 21 1.7
r56 11 24 2.93766
r57 11 12 6.47011
r58 9 24 3.18504
r59 9 10 6.47011
r60 6 16 92.2314
r61 6 12 58.0033
r62 3 14 87.1074
r63 3 10 76.0397
.ends

.subckt PM_AOI12%A 6 9 10 12 14 16 18 21 24
r49 21 24 25
r50 18 21 1.7
r51 11 24 2.93766
r52 11 12 6.47011
r53 9 24 3.18504
r54 9 10 6.47011
r55 6 16 92.2314
r56 6 12 58.0033
r57 3 14 87.1074
r58 3 10 76.0397
.ends

